US03949085
10 g of 7-hydroxy-2-methyl-isoflavone, 10 g of anhydrous potassium carbonate, 1 g of potassium iddide and 12.5 g of benzyl chloride are boiled in 200 ml of anhydrous acetone for 2 hours with stirring, under a reflux condenser. On subjecting the mixture to steam distillation, the crude product precipitating from a mixture of 100 ml of methanol and 40 ml of acetone, yielding white needle crystalls of 7-benzyloxy-2-methyl-isoflavone, m.p. 139°-141°C.

reactant | 7-hydroxy-2-methyl-isoflavone | 10 g | OC1=CC=C2C(C(=C(OC2=C1)C)C1=CC=CC=C1)=O | C16H12O3
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium | 1 g | [K] | K
reactant | benzyl chloride | 12.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 7-benzyloxy-2-methyl-isoflavone | C(C1=CC=CC=C1)OC1=CC=C2C(C(=C(OC2=C1)C)C1=CC=CC=C1)=O | C23H18O3
